US07723347B2
3-Bromo-4-nitro-1H-pyrrolo[2,3-b]pyridine
At 0° C., 316 μl (6.13 mmol) of bromine are added dropwise to a solution of 1.00 g (6.13 mmol) of 4-nitro-1H-pyrrolo[2,3-b]pyridine (Antonini, Ippolito; Claudi, Francesco; Cristalli, Gloria; Franchetti, Palmarisa; Grifantini, Mario; Martelli, Sante; J. Med. Chem. 1982, 25, 1258-1261.) in 50 ml of dichloromethane. After 1 h of stirring at 0° C. and 1 h of stirring at room temperature, the solution is poured onto a mixture of ice and saturated sodium bicarbonate solution. The mixture is then extracted twice with dichloromethane. The combined organic phases are dried with sodium sulfate, and the solvent is removed under reduced pressure. The residue is taken up in a mixture of cyclohexane/ethyl acetate and the precipitate formed is filtered off.

reactant | bromine | 6.13 mmol, 316 μl | BrBr | Br2
reactant | 4-nitro-1H-pyrrolo[2,3-b]pyridine | 6.13 mmol, 1.00 g | [N+](=O)([O-])C1=C2C(=NC=C1)NC=C2 | C7H5N3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Bromo-4-nitro-1H-pyrrolo[2,3-b]pyridine | BrC1=CNC2=NC=CC(=C21)[N+](=O)[O-] | C7H4BrN3O2
